US04234744
4.07 grams of 2-methoxycarbonylaminohexanoic acid methyl ester were heated in 15 ml of a mixture consisting of equal parts of concentrated hydrochloric acid, 100 weight percent formic acid and water for 24 hours under reflux. The acid mixture was removed in a vacuum, the oily residue treated twice with 20 ml of acetone and freed from acetone again in a vacuum. The now crystalline residue was intensively stirred with 10 ml of acetone, filtered with suction and dried over diphosphorus pentoxide. There were obtained 3.26 grams (97.3%) of D,L-norleucine hydrochloride pure by thin layer chromatography.

reactant | 2-methoxycarbonylaminohexanoic acid methyl ester | 4.07 grams | COC(C(CCCC)NC(=O)OC)=O | C9H17NO4
reactant | hydrochloric acid | Cl | ClH
reactant | formic acid | C(=O)O | CH2O2
solvent | water | O | H2O
product | D,L-norleucine hydrochloride | 3.26 grams, 97.3% | Cl.NC(CCCC)C(=O)O | InChI=1S/C6H13NO2.ClH/c1-2-3-4-5(7)6(8)9;/h5H,2-4,7H2,1H3,(H,8,9);1H
